US07476399B2
Prepared in a similar manner to example 158 using 2-(pyridine-2-yl)ethanamine and 1-isocyanato-4-isopropylbenzene. Purified via column chromatography (1% MeOH in CH2Cl2 to 3% MeOH in CH2Cl2) to afford 1-(4-isopropylphenyl)-3-(2-(pyridine-2-yl)ethyl)urea (130 mg, 50%) as a white solid. mp: 72-73° C. 1H NMR (500 MHz, CDCl3): δ 1.25 (d, 6H), 2.89 (m, 1H), 3.06 (t, 2H), 3.70 (t, 2H), 5.80 (br s, 1H), 6.55 (br s, 1H), 7.19 (m, 5H), 7.24 (d, 1H), 7.68 (dt, 1H), 8.46 (d, 1H). MS (M+H, 284).

reactant | 2-(pyridine-2-yl)ethanamine | N1=C(C=CC=C1)CCN | C7H10N2
reactant | 1-isocyanato-4-isopropylbenzene | N(=C=O)C1=CC=C(C=C1)C(C)C | C10H11NO
product | 1-(4-isopropylphenyl)-3-(2-(pyridine-2-yl)ethyl)urea | 130 mg, 50% | C(C)(C)C1=CC=C(C=C1)NC(=O)NCCC1=NC=CC=C1 | C17H21N3O
